US07534905B2
Enantioselective allylation of dihydrocinnamaldehyde to give (3R)-1-phenyl-hex-5-en-3-ol: To a cooled (−10° C.) solution of (4S,5S)-2-Allyl-2-chloro-3,4-dimethyl-5-phenyl-[1,3,2]oxazasilolidine (380 mg, 1.5 mmol) in toluene (5 mL) was added dihydrocinnamaldehyde (1.0 mmol). The reaction mixture was maintained at −10° C. for 2 h. To this cooled solution was added 1N HCl (4 mL) and EtOAc (4 mL) and the mixture was vigorously stirred for 15 min. The layers were separated and the aqueous layer was extracted with EtOAc (2×5 mL). The combined organics were dried (MgSO4), filtered, and concentrated. The residue was purified by flash chromatography on silica gel to give (3R)-1-phenyl-hex-5-en-3-ol in 84% yield and 88% enantiomeric excess (ee).

reactant | (4S,5S)-2-Allyl-2-chloro-3,4-dimethyl-5-phenyl-[1,3,2]oxazasilolidine | 1.5 mmol, 380 mg | C(C=C)[Si]1(O[C@H]([C@@H](N1C)C)C1=CC=CC=C1)Cl | C13H18ClNOSi
reactant | dihydrocinnamaldehyde | 1.0 mmol | C(CCC1=CC=CC=C1)=O | C9H10O
reactant | HCl | 1N, 4 mL | Cl | ClH
reactant | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (3R)-1-phenyl-hex-5-en-3-ol | 84% yield | C1(=CC=CC=C1)CC[C@H](CC=C)O | C12H16O
